US06440634B1
Synthesis of 4-tert-butoxyphenyldiphenylsulfonium benzenesulfonyloxybenzenesulfonate
The end product was synthesized as in Synthesis Example 10 except that 4-tert-butoxyphenyldiphenylsulfonium chloride and sodium benzenesulfonyloxybenzenesulfonate were used.

reactant | 4-tert-butoxyphenyldiphenylsulfonium chloride | [Cl-].C(C)(C)(C)OC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium benzenesulfonyloxybenzenesulfonate | C1(=CC=CC=C1)S(=O)(=O)OC1=C(C=CC=C1)S(=O)(=O)[O-].[Na+]
product | 4-tert-butoxyphenyldiphenylsulfonium benzenesulfonyloxybenzenesulfonate | C1(=CC=CC=C1)S(=O)(=O)OC1=C(C=CC=C1)S(=O)(=O)[O-].C(C)(C)(C)OC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H23OS.C12H10O6S2/c1-22(2,3)23-18-14-16-21(17-15-18)24(19-10-6-4-7-11-19)20-12-8-5-9-13-20;13-19(14,15)12-9-5-4-8-11(12)18-20(16,17)10-6-2-1-3-7-10/h4-17H,1-3H3;1-9H,(H,13,14,15)/q+1;/p-1
